Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11].[O:1],8.67431081046
[O:1][C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:11]([H:12])([H:13])[O:14][H:15],0.687345626101
[O:1]=[C:2]=[C:3][O:4][C:5]#[C:6][H:7]>>[O:1]=[C:2]=[C:3]1[O:4][C:5]1=[C:6][H:7],0.3128282331199999
[H:1][O:2][C:3]1[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2][C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11],1.39740177992
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8],2.0275436575
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],-6.21160155955
[C:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],4.5091527867500005
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8].[O:9][H:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10],-6.77407891374
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13],3.8987206436
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:7]([H:8])[O:9][H:10].[H:1][C:2]=[C:3]([H:4])[C:5][H:6],6.4167291548300005
[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[H:7]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],-4.075409962799999
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:3],4.8702297230500005
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],3.79692106583
[C:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]#[C:2][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3],3.62291712893
[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])=[O:4],1.13082044895
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1],5.963665476259999
[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.60859576003
[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]#[C:7][H:8])=[C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]#[C:7][H:8])=[C:9][H:10],5.08353225981
[H:1][O:2][C:3][O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],1.86233345813
[C:1]#[C:2][C:3](=[O:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[C:1]#[C:2][C@@:3]([O:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-0.852006932296
[H:11].[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.10031440544
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:1],4.90216022937
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:10]([H:11])[H:12].[H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-4.86327306005
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[O:9]=[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14],-0.7651999862600001
[H:13].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.80373933747
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.05135157281
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[C:11]([H:12])[H:13].[O:9][H:10],6.004042505959999
[O:1]=[C:2]([C:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:5]([H:6])=[C:7]([H:8])[O:9][H:10].[O:1][C:2]#[C:3][H:4],2.23587018511
